US06552049B2
2,3,8,9-Tetrahydrofuro[3,2-f][1.4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate
A solution of 2.3 g (4.9 mmole) of [(2R)-7-(benzyloxy)-8-(2-hydroxyethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate in 100 mL of methanol was added to a slurry of 0.40 g of 10% palladium on carbon in 30 mL of methanol in 500 mL Parr hydrogenation bottle. The mixture was treated with 50 psi of hydrogen on a Parr shaker for 15 hours. The catalyst was then removed by filtration through celite and the filtrate concentrated in vacuum to 1.72 g of a yellow oil. The oil was dissolved in 100 mL of benzene, 2.1 g (8.0 mmole) of triphenylphosphine and 1.6 g (8.0 mmole) of diisopropylazodicarboxylate added and the mixture stirred at room temperature for 3 days. The solvent was then removed in vacuum and the residue column chromatographed on silica gel with methylene chloride as eluant to give 1.25 g of the (R)-enantiomer of the title compound as a white solid, m.p. 95-96° C.

reactant | [(2R)-7-(benzyloxy)-8-(2-hydroxyethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 4.9 mmole, 2.3 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)OCC2=CC=CC=C2)CCO | C25H26O7S
reactant | hydrogen | [H][H] | H2
reactant | triphenylphosphine | 8.0 mmole, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 8.0 mmole, 1.6 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 2,3,8,9-Tetrahydrofuro[3,2-f][1.4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(OC1)C=CC1=C2CCO1 | C18H18O6S
